US05132424
A. 6-Cyclohexyl-4,7-dihydro-3-phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8(6H)-dione
4-Phenylpyrazol-3-amine [Anderson, E. L. et al., "Synthesis . . . 3-Amino-4-Arylpyrazoles", J. Med. Chem., 7, (1964), pp. 259-268] (3.00 g, 18.8 mmole) and ethyl 1-cyclohexyl-4,5-dioxo-3-pyrrolidinecarboxylate (4.77 g, 18.8 mmole) were combined in glacial acetic acid (19 mL) and stirred under reflux for five hours. No precipitate was observed throughout the course of the reaction. Upon cooling, the reaction solidified to a light yellow mass which was dissolved in 95% ethanol (100 mL) at reflux and water (50 mL) was added slowly while maintaining reflux. After cooling to room temperature, the thick yellow solid was collected by suction filtration and washed with more ethanol/water. Drying under vacuum left 5.37 g homogenous by TLC. Unsatisfactory analysis prompted recrystallization from 95% ethanol (200 mL) to give 3.31 g (m.p.>148°, dec.). Yield: 51% of the subtitled compound. 1H NMR CDCl3, δ) 8.08 (s, 1H, pyrazole-H), 7.44 (d, 2H, J=8 Hz, 2-phenyl H), 7.36 (t, 2H, J=8 Hz, 3-phenyl H), 7.23 (t, 1H, J=8 Hz, 4-phenyl H), 4.37 (s, 2H, lactam CH2), 3.99 (m, 1H, cyclohexyl CH), 1.1-1.9 (m, 10H, chclohexyl CH2); IR (mull) 3519, 1692, 1638, 1613, 1455 cm-1 ; UV (ethanol) λmax(ε) 205 (29,400), 210sh (27,750), 237 (18,350), 268 (18,760), 370 (7700); MS m/e (rel. intens.) 349 (M+1, 23), 348 (M+, 97), 267 (18), 266 (100), 210 (8), 183 (9); Exact mass calc'd for C20H20N4O2 =348.1586; Found=348.1593; TLC (silica, 10% methanol/chloroform) Rf 0.52.

reactant | 4-Phenylpyrazol-3-amine | C1(=CC=CC=C1)C=1C(=NNC1)N | C9H9N3
reactant | ethyl 1-cyclohexyl-4,5-dioxo-3-pyrrolidinecarboxylate | 18.8 mmole, 4.77 g | C1(CCCCC1)N1CC(C(C1=O)=O)C(=O)OCC | C13H19NO4
reactant | water | 50 mL | O | H2O
solvent | acetic acid | 19 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 6-Cyclohexyl-4,7-dihydro-3-phenyl-5H-pyrazolo[1,5-a]pyrrolo[3,4-d]pyrimidine-5,8(6H)-dione | Yield: 51% | C1(CCCCC1)N1C(C=2NC=3N(C(C2C1)=O)N=CC3C3=CC=CC=C3)=O | C20H20N4O2
